US05536722
2-Chloro-4,6-bis-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-1,3,5 triazine
A vigorously stirred dispersion of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (9.57 g, 40.4 mM) and cyanuric chloride (3.75 g, 20.2 mM) in dioxane (80 mL) was treated with sodium carbonate solution (0° C., 1M, 80 mL) at 0° C. for 0.5 hr then 4 hr at ambient temperature. Extraction with chloroform (4×70 mL), washing with saturated sodium chloride solution (80 mL), filtration through a cotton plug and concentration afforded an oil. Evaporation from benzene (2×40 mL) left a white foam which was triturated with hot methanol to provide a white crystalline solid, 9.35 g, (94%), mp=149°-151° C.

reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 40.4 mM, 9.57 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | cyanuric chloride | 20.2 mM, 3.75 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium carbonate | 1M, 80 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4,6-bis-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-1,3,5 triazine | ClC1=NC(=NC(=N1)N1CC2=CC(=C(C=C2CC1)OC)OC)N1CC2=CC(=C(C=C2CC1)OC)OC | C25H28ClN5O4
